US09102591B2
To a solution of 3-cyclopropyl-2-methyl-2-(pyrimidin-5-yl)propanenitrile (2.5 g, 13.4 mmol) and DMFS (7.8 g, 26.7 mmol) in DCM (40 ml) and H2O (12 ml) at room temperature was added TFA (1.5 g, 13.4 mmol) followed by slow addition of t-BuOOH (8.6 g, 67 mmol) with vigorous stirring. The reaction mixture was stirred at room temperature overnight. To the reaction mixture was added additional DMFS (7.8 g, 26.7 mmol) and t-BuOOH (8.6 g, 67 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was added aq. NaHCO3 and extracted with EtOAc (3×50 ml). The organic layer was dried over Na2SO4 and concentrated. The crude product was purification by column chromatography on silica gel (petroleum ether: EtOAc=4:1) to give 3-cyclopropyl-2-(2-(difluoromethyl)pyrimidin-5-yl)-2-methylpropanenitrile (1.1 g, yield: 35%). 1H NMR (CDCl3 400 MHz): δ8.97 (s, 2H), 6.82-6.55 (m, 1H), 1.92-1.90 (m, 2H), 1.85 (s, 3H), 0.71-0.65 (m, 1H), 0.60-0.57 (m, 1H), 0.51-0.47 (m, 1H), 0.26-0.20 (m, 1H), 0.03-0.00 (m, 1H).

reactant | 3-cyclopropyl-2-methyl-2-(pyrimidin-5-yl)propanenitrile | 13.4 mmol, 2.5 g | C1(CC1)CC(C#N)(C=1C=NC=NC1)C | C11H13N3
reactant | TFA | 13.4 mmol, 1.5 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | t-BuOOH | 67 mmol, 8.6 g | C(C)(C)(C)OO | C4H10O2
reactant | t-BuOOH | 67 mmol, 8.6 g | C(C)(C)(C)OO | C4H10O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 12 ml | O | H2O
product | 3-cyclopropyl-2-(2-(difluoromethyl)pyrimidin-5-yl)-2-methylpropanenitrile | 1.1 g, yield: 35% | C1(CC1)CC(C#N)(C)C=1C=NC(=NC1)C(F)F | C12H13F2N3
